US07592477B2
Step a) Formation of N-(4-dec-1-ynylbenzyl)-N-[2-(3,4-dichlorophenyl)ethyl]amine
The same procedure as employed in the preparation of Example 394 (step b) but using 4-dec-1-ynylbenzaldehyde and 2-(3,4-dichlorophenyl)ethylamine gave the title compound as an oil. M+(LC/MS(ESI)): 416.3. HPLC (Condition A), Rt: 4.91 min (HPLC purity: 72.4%).

reactant | 4-dec-1-ynylbenzaldehyde | C(#CCCCCCCCC)C1=CC=C(C=O)C=C1 | C17H22O
reactant | 2-(3,4-dichlorophenyl)ethylamine | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
product | N-(4-dec-1-ynylbenzyl)-N-[2-(3,4-dichlorophenyl)ethyl]amine | C(#CCCCCCCCC)C1=CC=C(CNCCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C25H31Cl2N
